US04783562
595 g of 3-nitro-4-methylbenzyl sulphide are initially introduced into 1,000 ml of trichloromethane at the reflux temperature, and the mixture is reacted with chlorine until saturation occurs. Chlorine is then introduced for a further 1 hour at 20° C., and is subsequently expelled with nitrogen. 315 g of 3-nitro-4-methylbenzotrichloride are obtained by fractional distillation at a boiling point of 128°-130° C./2.5 mbar.

reactant | 3-nitro-4-methylbenzyl sulphide | 595 g | [N+](=O)([O-])C=1C=C(CSCC2=CC(=C(C=C2)C)[N+](=O)[O-])C=CC1C | C16H16N2O4S
reactant | chlorine | ClCl | Cl2
reactant | trichloromethane | 1,000 ml | ClC(Cl)Cl | CHCl3
product | 3-nitro-4-methylbenzotrichloride | 315 g | [N+](=O)([O-])C=1C=C(C=CC1C)C(Cl)(Cl)Cl | C8H6Cl3NO2
